reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([O:5][H:15])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:5][H:15])([H:6])([H:7])[H:8].[C:2](=[C:3]([C:4]([H:12])([H:13])[H:14])[H:11])([H:9])[H:10],114.46292396170799
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([N+:7]#[C-:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],39.6391099494528
[O:1]1[C@:2]([C:4]#[C:5][H:10])([C:6]#[N:7])[C:3]1([H:8])[H:9]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],75.60047038218529
[C:1]([N:2]([C:3](=[O:4])[H:13])[H:10])([H:7])([H:8])[H:9].[O:5]=[C:6]([H:11])[H:12]>>[C:1]([N:2]([C:3](=[O:4])[O:5][C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],68.0023356206319
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[O:1](/[C:2](=[C:3]1\[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7])[H:8],69.76705197247699
[C:1]([C:2]([C:3](=[C:4])[H:10])([H:8])[H:9])([C:5]([H:11])([H:12])[H:13])([H:6])[H:7]>>[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]1([H:12])[H:13],12.827782693915921
[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9]>>[N:1]([C:2]1=[O+:3][C-:5]=[C:4]1[N+:7]#[C-:6])([H:8])[H:9],92.67634183704521
[C:1]([C:2]([N:3]([C:4][O:5][H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],33.2369592454612
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[N:4]([H:15])[C@@:5]1([O:6][H:10])[C:7]([H:16])([H:17])[H:18],83.0546422359299
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([N+:7]#[C-:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],38.9671371274478
[C:1]([O:2][C:3]([C:4]([O:7]/[C:6](=[N:5]/[H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],55.60369232456832
[C:3]=[N:4][H:5].[O:1]=[C:2]([H:6])[H:7]>>[O:1]([C:2]([C:3]#[N:4])([H:6])[H:7])[H:5],43.738686776078694
[C:1]([O:5]/[C:4](=[C:2](/[C:3]([H:12])([H:13])[H:14])[H:11])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],77.20206697841519
[C:1]([C@@:2]([C:4](=[C:3]([H:12])[H:13])[H:14])([C:7](=[C:6]=[C:5]([H:15])[H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],83.81190516618139
[C:1]([C:2]([O+:3]=[C-:4][N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],40.54736982830608
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([H:10])([H:11])[H:12])[C:5]([O:6][H:16])([H:14])[H:15])([H:8])[H:9].[O:4]([H:7])[H:13],66.4682435254521
[C:1](#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[C:1](=[C:2])([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],60.2511243855865
[C:1]([C:2](/[C:5](=[C:3](/[C:4]([H:13])([H:14])[H:15])[H:12])[C:6][H:16])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[C:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],33.7609061472605
[O:1]1[C@@:2]2([H:8])[C@:3]3([H:9])[C:4]([H:10])=[C:5]([H:11])[C@@:6]2([H:12])[C@:7]13[H:13]>>[O:1]1[C:2]([H:8])([H:9])[C@@:6]2([H:12])[C+:5]([H:11])[C:4]([H:10])=[C-:3][C@@:7]12[H:13],63.65558009415189
[C:1]([N:5]([C:4]([O+:3]=[C:2]([H:11])[H:12])=[C:6]=[N-:7])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],59.98415865107151
[C:1]([N:2]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C-:1]([N+:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7],83.1908324868279
[C:1](=[C:2]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])[H:9].[O:3]([H:10])[H:12]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],54.7373171516184
[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])([H:4])([H:5])[H:6]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[H:8])([H:4])([H:5])[H:7].[H:6][H:9],115.908689566136
[C:1]([C:2]([C:3]([C:4]([C:5]#[C:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[C:5]=[C:6]([C:7]([H:17])([H:18])[H:19])[H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],83.8169126831583
